US09428456B2
(4.01b): N-(3-Formyl-phenyl)-5-methyl-nicotinamide L-1
A solution of N-(3-[1,3]dioxolan-2-yl-phenyl)-5-methyl-nicotinamide (3.0 g, 10.55 mmol) in dioxane (50 mL) is treated with a 4M HCl in 1,4-dioxane (30 mL). The mixture is heated at 60° C. for 3 h. Water (100 mL) is added to the mixture followed by NaOH 2M (70 mL) solution to get pH 10. The mixture is extracted twice with EtOAc (100 mL). The combined organic phases are dried over MgSO4, filtered and evaporated. The crude title compound is obtained as a brownish solid (1.744 g. 69%) LC-MS A: tR=0.58 min; [M+H]+=241.24.

reactant | N-(3-[1,3]dioxolan-2-yl-phenyl)-5-methyl-nicotinamide | 10.55 mmol, 3.0 g | O1C(OCC1)C=1C=C(C=CC1)NC(C1=CN=CC(=C1)C)=O | C16H16N2O3
reactant | HCl | 4M | Cl | ClH
reactant | Water | 100 mL | O | H2O
reactant | NaOH | 2M, 70 mL | [OH-].[Na+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | N-(3-Formyl-phenyl)-5-methyl-nicotinamide | C(=O)C=1C=C(C=CC1)NC(C1=CN=CC(=C1)C)=O | C14H12N2O2
